US06541481B2
4-Hydroxy-4-trimethylsilanylethynyl-tetrahydro-pyran-2-carboxylic Acid Ethyl Ester
A cold (−78° C.), stirred solution of (trimethylsilyl)acetylene (1.80 g, 18.24 mmol) in anhydrous THF (30 mL) was treated with nBuLi (7.3 mL in hexane, 18.24 mmol) under nitrogen. The colorless solution was stirred for 30 minutes and followed by the addition of 4-oxo-tetrahydro-pyran-2-carboxylic acid ethyl ester (2.62 g, 15.2 mmol) in anhydrous THF (30 mL). The reaction was warmed up to room temperature, stirred for 2 hours, and quenched with water (30 mL). After removal of THF, the product was extracted with EtOAc (2×60 mL). The combined organic layer was washed with brine, dried over sodium sulfate, and concentrated to give 2.50 g (61%) of yellow oil: 1H NMR (CDCl3) δ 0.17 (s, 9H), 1.30 (t, 3H), 1.76-1.90 (m, 3H), 2.25 (m, 1H), 3.66 (tt, 1H), 4.11-4.21 (m, 2H), 4.24 (q, 2H).

reactant | (trimethylsilyl)acetylene | 18.24 mmol, 1.80 g | C[Si](C)(C)C#C | C5H10Si
reactant | nBuLi | 18.24 mmol, 7.3 mL | [Li]CCCC
reactant | 4-oxo-tetrahydro-pyran-2-carboxylic acid ethyl ester | 15.2 mmol, 2.62 g | C(C)OC(=O)C1OCCC(C1)=O | C8H12O4
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 4-Hydroxy-4-trimethylsilanylethynyl-tetrahydro-pyran-2-carboxylic Acid Ethyl Ester | 2.50 g, 61% | C(C)OC(=O)C1OCCC(C1)(C#C[Si](C)(C)C)O | C13H22O4Si
